US08629137B2
1-{1-[6-(1,3,3,7-tetramethyl-2,3-dihydro-1H-indol-5-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-b]pyridin-2-one
38 mg (0.17 mmol) 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one, 55 mg (0.17 mmol) (6-chloro-pyrimidin-4-yl)-(1,3,3,7-tetramethyl-2,3-dihydro-1H-indol-5-yl)-methanone and 0.050 mL (0.29 mmol) DIPEA were combined in 2 mL DMF and stirred overnight at 40° C. Then the reaction mixture was purified by preparative HPLC-MS. The fractions containing the product were combined and freeze-dried.

reactant | 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one | 0.17 mmol, 38 mg | N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C11H14N4O
reactant | (6-chloro-pyrimidin-4-yl)-(1,3,3,7-tetramethyl-2,3-dihydro-1H-indol-5-yl)-methanone | 0.17 mmol, 55 mg | ClC1=CC(=NC=N1)C(=O)C=1C=C2C(CN(C2=C(C1)C)C)(C)C | C17H18ClN3O
reactant | DIPEA | 0.29 mmol, 0.050 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-{1-[6-(1,3,3,7-tetramethyl-2,3-dihydro-1H-indol-5-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | CN1CC(C2=CC(=CC(=C12)C)C(=O)C1=CC(=NC=N1)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O)(C)C | C28H31N7O2
